US07531532B2
Methyl-(3-azetidin-1-ylpropyl)amine
Lithium aluminum hydride (2.98 g) was gradually added to a solution of tert-butyl (3-azetidin-1-yl-3-oxopropyl)carbamate (5.99 g) in tetrahydrofuran (150 ml) while stirring in an ice bath. The mixture was stirred under a nitrogen atmosphere, for 15 minutes in an ice bath and for 45 minutes at room temperature. It was then heated and stirred for 8 hours at 80° C. under a nitrogen atmosphere. The reaction mixture was further heated to reflux for 34 hours at 100° C. under a nitrogen atmosphere. It was then cooled in an ice bath. Water (2.98 ml), 5N aqueous sodium hydroxide (2.98 ml) and water (8.94 ml) were added thereto in that order while stirring, and the mixture was stirred at room temperature for 3 days. The insoluble portion was then filtered. The filtrate was concentrated under reduced pressure to provide the title compound (2.78 g, 82.8%) as a brown oil.

reactant | Lithium aluminum hydride | 2.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl (3-azetidin-1-yl-3-oxopropyl)carbamate | 5.99 g | N1(CCC1)C(CCNC(OC(C)(C)C)=O)=O | C11H20N2O3
reactant | Water | 2.98 ml | O | H2O
reactant | sodium hydroxide | 5N, 2.98 ml | [OH-].[Na+]
reactant | water | 8.94 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Methyl-(3-azetidin-1-ylpropyl)amine | 2.78 g, 82.8% | CNCCCN1CCC1 | C7H16N2
